US08258141B2
Step 1: N-((1S,2R,3S,4R)-4-{6-[2,2-Bis-(4-chloro-phenyl)-2-hydroxy-ethylamino]-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-acetamide
A solution comprising: N-((1S,2R,3S,4R)-4-{2-((R)-3-Amino-pyrrolidin-1-yl)-6-[2,2-bis-(4-chloro-phenyl)-2-hydroxy-ethylamino]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-acetamide (Intermediate ZO; 1 equivalent) and pyridin-3-yl-carbamic acid phenyl ester (Intermediate ZB; 1 equivalent) in NMP is stirred at 100° C. for 1 hour. The solvent is removed in vacuo and the title compound is obtained after purification by column chromatography/crystallisation.

reactant | N-((1S,2R,3S,4R)-4-{2-((R)-3-Amino-pyrrolidin-1-yl)-6-[2,2-bis-(4-chloro-phenyl)-2-hydroxy-ethylamino]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-acetamide | 1 equivalent | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)NCC(O)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C30H34Cl2N8O5
reactant | pyridin-3-yl-carbamic acid phenyl ester | 1 equivalent | C1(=CC=CC=C1)OC(NC=1C=NC=CC1)=O | C12H10N2O2
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N-((1S,2R,3S,4R)-4-{6-[2,2-Bis-(4-chloro-phenyl)-2-hydroxy-ethylamino]-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-acetamide | ClC1=CC=C(C=C1)C(CNC1=C2N=CN(C2=NC(=N1)N1C[C@@H](CC1)NC(=O)NC=1C=NC=CC1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)(O)C1=CC=C(C=C1)Cl | C36H38Cl2N10O6
